### PR TITLE
Prove smallSteps_diamond

### PR DESCRIPTION
**Pull request by Daoortor**

### CODE REVIEW

File: LocalLang/Semantics.lean [hunk 1]
```diff
@@ -37,7 +37,307 @@ def SmallSteps.single {defs : Definitions} {env : Env} :
   intro step
   exact Relation.ReflTransGen.single step
 
+@[simp] lemma var_eq_fill_implies_hole {ctx : Ctx}
+  (H : Expr.var x = ctx.fill e)
+  : (ctx = .hole ∧ Expr.var x = e) := by
```
[the remark this answers is not in the document]
Comment (Daoortor) [reply LocalLang/Semantics.lean]: Seems like you're right, for example, in
```
H : Expr.var "x" = Ctx.fill e ctx
simp at H
```
, simp makes no progress. I should probably remove the @[simp] attribute.

File: LocalLang/Semantics.lean [hunk 2]
```diff
@@ -37,7 +37,307 @@ def SmallSteps.single {defs : Definitions} {env : Env} :
...
+    cases st with
+    | ctx_step ctx e₁'_eq e₂'_eq headSt => {
+      rw [e₁'_eq] at e₀_eq
+      let ⟨ctx_eq, e₁_eq⟩ := const_eq_fill_implies_hole e₀_eq
+      rw [← e₁_eq] at headSt
+      apply no_headSmallStep_from_const headSt
+    }
+
+lemma headSmallStep_from_var_deterministic {defs : Definitions}
+  (Hin : V[x]? = some n) (st : HeadSmallStep defs V (.var x) e) : (.const n = e) := by
```
[the remark this answers is not in the document]
Comment (Daoortor) [reply LocalLang/Semantics.lean]: The only usage of this lemma (at smallStep_from_var_deterministic) applies it in the backwards form. Maybe if this lemma will be used in the future,  e = .const n will be more convenient, but I don't know if we'll ever need it again

File: LocalLang/Semantics.lean [hunk 3]
```diff
@@ -37,7 +37,307 @@ def SmallSteps.single {defs : Definitions} {env : Env} :
...
+    cases st with
+    | var_step Hin' => {
+      rename_i n'
+      rw [Hin'] at Hin
+      injection Hin with n'_eq_n
+      simp [n'_eq_n]
+    }
+
+lemma smallStep_from_var_deterministic {defs : Definitions}
+  (Hin : V[x]? = some n) (st : SmallStep defs V (.var x) e) : (.const n = e) := by
```
[the remark this answers is not in the document]
Comment (Daoortor) [reply LocalLang/Semantics.lean]: I only used Hin to state that e = .const V[x], not just e = .const n for some n. And without Hin, we don't know that V[x] is valid, so we cannot just put it into the lemma statement. I guess we can move it into the conclusion with the existential quantifier for n, something like
```
lemma smallStep_from_var_deterministic' {defs : Definitions}
  (st : SmallStep defs V (.var x) e) : ∃ n, V[x]? = some n ∧ .const n = e
```
, but it seems more messy

File: LocalLang/Semantics.lean [hunk 4]
```diff
@@ -37,7 +37,307 @@ def SmallSteps.single {defs : Definitions} {env : Env} :
...
+
+lemma no_headSmallStep_from_const {defs : Definitions}
+  (st : HeadSmallStep defs V (.const x) e) : False := by
+    cases st
+
+lemma no_smallStep_from_const {defs : Definitions}
+  (st : SmallStep defs V (.const x) e) : False := by
+    generalize e₀_eq : Expr.const x = e₀ at *
+    cases st with
+    | ctx_step ctx e₁'_eq e₂'_eq headSt => {
```
[the remark this answers is not in the document]
Comment (Daoortor) [reply LocalLang/Semantics.lean]: Oh, I didn't know it works just with indents. I'll remove them in other proofs as well

File: LocalLang/SemanticsLemmas.lean [hunk 5]
```diff
@@ -8,14 +8,79 @@ instance :
...
-    : e.addBindings [(x, xe)] = Expr.letIn x xe e := by sorry
+    : e.addBindings [(x, xe)] = Expr.letIn x xe e := by
+  simp [Expr.addBindings]
 
-lemma SmallStep.hole_step : HeadSmallStep defs V e₁ e₂ → SmallStep defs V e₁ e₂ := by sorry
+lemma SmallStep.hole_step : HeadSmallStep defs V e₁ e₂ → SmallStep defs V e₁ e₂ := by
+  intro hstep
+  exact .ctx_step .hole (by rw [Ctx.fill]) (by rw [Ctx.fill]) hstep
+
+def Ctx.nestCtx (innerCtx : Ctx) : Ctx → Ctx
```
Comment (jesyspa) [inline LocalLang/SemanticsLemmas.lean]: Perhaps this should be in the definitions file?

File: LocalLang/SmallStepsDiamond.lean [hunk 6]
```diff
@@ -0,0 +1,268 @@
+import LocalLang.Semantics
+import LocalLang.SemanticsLemmas
+
+lemma headSmallStep_from_var_deterministic {defs : Definitions}
+  (Hin : V[x]? = some n) (st : HeadSmallStep defs V (.var x) e) : (.const n = e) := by
```
Comment (jesyspa) [inline LocalLang/SmallStepsDiamond.lean]: Let's stick to the naming conventions for locals as well.

File: LocalLang/SmallStepsDiamond.lean [hunk 7]
```diff
@@ -0,0 +1,268 @@
...
+-- TODO: extract repeating parts
+lemma smallStep_from_const_binOp_deterministic {defs : Definitions} {op : BinOp}
+  (st : SmallStep defs V (.binOp op (.const n₁) (.const n₂)) e) : (.const (op.eval n₁ n₂) = e) := by
+    generalize e₀_eq : Expr.binOp op (.const n₁) (.const n₂) = e₀ at st
+    cases st with
+    | ctx_step ctx e₁'_eq e₂'_eq headSt =>
+      rename_i e₁ e₂
+      simp [e₁'_eq] at e₀_eq
+      cases ctx <;> try simp [Ctx.fill] at *
+      case hole => (
```
Comment (jesyspa) [inline LocalLang/SmallStepsDiamond.lean]: nit: unnecessary parentheses (I see also unnecessary braces below, please fix all cases)

File: LocalLang/SmallStepsDiamond.lean [hunk 8]
```diff
@@ -0,0 +1,268 @@
...
+    cases st with
+    | var_step Hin' =>
+      rename_i n'
+      rw [Hin'] at Hin
+      injection Hin with n'_eq_n
+      simp [n'_eq_n]
+
+lemma smallStep_from_var_deterministic {defs : Definitions}
+  (Hin : V[x]? = some n) (st : SmallStep defs V (.var x) e) : (.const n = e) := by
+    generalize e₀_eq : Expr.var x = e₀ at *
```
Comment (jesyspa) [inline LocalLang/SmallStepsDiamond.lean]: Is this generalization necessary?

File: LocalLang/SmallStepsDiamond.lean [hunk 9]
```diff
@@ -0,0 +1,268 @@
...
+  : (.const (op.eval n₁ n₂) = e) := by
+    cases st with
+    | bin_op_step n_eq => simp only [n_eq]
+
+-- TODO: extract repeating parts
+lemma smallStep_from_const_binOp_deterministic {defs : Definitions} {op : BinOp}
+  (st : SmallStep defs V (.binOp op (.const n₁) (.const n₂)) e) : (.const (op.eval n₁ n₂) = e) := by
+    generalize e₀_eq : Expr.binOp op (.const n₁) (.const n₂) = e₀ at st
+    cases st with
+    | ctx_step ctx e₁'_eq e₂'_eq headSt =>
```
Comment (jesyspa) [inline LocalLang/SmallStepsDiamond.lean]: I don't think `headSt` is an element of a `Type`?

File: LocalLang/SmallStepsDiamond.lean [hunk 10]
```diff
@@ -0,0 +1,268 @@
...
+      rw [e₂'_eq]
+      let ⟨ctx_eq, e₁_eq⟩ := var_eq_fill_implies_hole e₀_eq
+      simp [ctx_eq, Ctx.fill, Ctx.updateEnv] at *
+      rw [← e₁_eq] at headSt
+      exact headSmallStep_from_var_deterministic Hin headSt
+
+lemma headSmallStep_from_const_binOp_deterministic {defs : Definitions} {op : BinOp}
+  (st : HeadSmallStep defs V (.binOp op (.const n₁) (.const n₂)) e)
+  : (.const (op.eval n₁ n₂) = e) := by
+    cases st with
```
Comment (jesyspa) [inline LocalLang/SmallStepsDiamond.lean]: Maybe useful: `cases st; simpa`.

File: LocalLang/SemanticsLemmas.lean [hunk 11]
```diff
@@ -8,14 +8,79 @@ instance :
...
+  | .hole => innerCtx
+  | .binOpLhs ctx₀ op e => .binOpLhs (nestCtx innerCtx ctx₀) op e
+  | .binOpRhs n op ctx₀ => .binOpRhs n op (nestCtx innerCtx ctx₀)
+  | .letInExpr x ctx₀ e => .letInExpr x (nestCtx innerCtx ctx₀) e
+  | .letInBody x n ctx₀ => .letInBody x n (nestCtx innerCtx ctx₀)
+
+lemma nestCtx_preserves_updateEnv (ctx' ctx : Ctx) {V : Env}
+  : ctx'.updateEnv (ctx.updateEnv V) = (ctx'.nestCtx ctx).updateEnv V := by
+  induction ctx generalizing V <;> simp only [Ctx.updateEnv, Ctx.nestCtx] <;> (
+    expose_names
```
[the remark this answers is not in the document]
Comment (Daoortor) [reply LocalLang/SemanticsLemmas.lean]: I guess it could be replaced with `rename_i ih; exact ih`

File: LocalLang/SemanticsLemmas.lean [hunk 12]
```diff
@@ -8,14 +8,79 @@ instance :
...
+  · rw [e₁'_eq, e₁_eq]; apply nestCtx_preserves_fill
+  · rw [e₂'_eq, e₂_eq]; apply nestCtx_preserves_fill
 
 lemma SmallSteps.with_ctx (ctx : Ctx)
     : (e₁' = ctx.fill e₁) → (e₂' = ctx.fill e₂)
-    → SmallSteps defs (ctx.updateEnv V) e₁ e₂ → SmallSteps defs V e₁' e₂' := by sorry
+    → SmallSteps defs (ctx.updateEnv V) e₁ e₂ → SmallSteps defs V e₁' e₂' := by
+  intro e₁'_eq e₂'_eq steps
+  rw [e₁'_eq, e₂'_eq]
+  apply Relation.ReflTransGen.lift (ctx.fill) ?_ steps
```
[the remark this answers is not in the document]
Comment (Daoortor) [reply LocalLang/SemanticsLemmas.lean]: Should I just inline the remaining proof in place of ?_ ?

File: LocalLang/SemanticsLemmas.lean (hunk 11 above)
[the remark this answers is not in the document]
Comment (jesyspa) [reply LocalLang/SemanticsLemmas.lean]: This doesn't seem to be fixed.

If `rename_i ih; exact ih` works, then shouldn't `assumption` work?

File: LocalLang/SemanticsLemmas.lean [hunk 13]
```diff
@@ -8,14 +8,71 @@ instance :
...
 lemma SmallSteps.with_ctx (ctx : Ctx)
     : (e₁' = ctx.fill e₁) → (e₂' = ctx.fill e₂)
-    → SmallSteps defs (ctx.updateEnv V) e₁ e₂ → SmallSteps defs V e₁' e₂' := by sorry
+    → SmallSteps defs (ctx.updateEnv V) e₁ e₂ → SmallSteps defs V e₁' e₂' := by
+  intro e₁'_eq e₂'_eq steps
+  rw [e₁'_eq, e₂'_eq]
+  apply Relation.ReflTransGen.lift (ctx.fill) (by
+    intro e e' step
+    exact SmallStep.with_ctx ctx rfl rfl step
+  ) steps
```
Comment (jesyspa) [inline LocalLang/SemanticsLemmas.lean]: Please avoid this kind of thing, it's very hard to read.  You can use `?_` instead.

File: LocalLang/SmallStepsDiamond.lean [hunk 14]
```diff
@@ -0,0 +1,175 @@
+import LocalLang.Semantics
+import LocalLang.SemanticsLemmas
+
+lemma headSmallStep_from_var_deterministic {defs : Definitions}
+  (st : HeadSmallStep defs V (.var x) e)
+  : ∃ n, V[x]? = some n ∧ e = .const n := by
+  cases st with
+  | var_step h_in' =>
+    rename_i n
```
Comment (jesyspa) [inline LocalLang/SmallStepsDiamond.lean]: Hm, is it not possible to bind `n` in the `var_step` binding?

Similarly below: it's confusing that you bind and then also need to rename.  Why can't you bind everything you want at once?

File: LocalLang/SmallStepsDiamond.lean [hunk 15]
```diff
@@ -0,0 +1,175 @@
...
+    let h_a' := SmallStep.ctx_step ctx₀ (by rfl) (by rfl) head_st
+    let h_b' := SmallStep.ctx_step ctx₀' (by rfl) (by rfl) head_st'
+    rw [← fill_eq, ← x'_eq, ← n'_eq] at h_b'
+    let result := ih h_b' h_a' (by rfl) (by rfl) head_st
+    rw [e₂_eq, e₃_eq, ← x'_eq, ← n'_eq, result]
+
+theorem smallSteps_diamond {defs : Definitions} {e₁ e₂ e₃ : Expr}
+  (h_a : SmallSteps defs V e₁ e₂) (h_b : SmallSteps defs V e₁ e₃)
+  :  ∃ e₄, SmallSteps defs V e₂ e₄ ∧ SmallSteps defs V e₃ e₄ := by
+  let ⟨e₄, _⟩ := Relation.church_rosser (by
```
Comment (jesyspa) [inline LocalLang/SmallStepsDiamond.lean]: Perhaps `suffices` would be good here?

File: LocalLang/SmallStepsDiamond.lean (hunk 14 above)
Comment (Daoortor) [reply LocalLang/SmallStepsDiamond.lean]: Seems like it's not possible. Maybe you can only bind explicit arguments of the constructor (which makes sense)
